US04552866
(B) L-Leucine, 2-(trimethylsilyl)ethyl ester
To a solution of 9.1 g (24.9 mmol) of [(phenylmethoxy)carbonyl]-L-leucine, 2-(trimethylsilyl)ethyl ester in 200 ml of ethyl acetate cooled in an ice bath under nitrogen was added 1 g of 10% palladium on charcoal. The reaction mixture was subjected to a steady stream of hydrogen for 21/2 hours at room temperature, then filtered and concentrated in vacuo to remove volatiles. The liquid product obtained was homogeneous by TLC. The yield was 5.8 g and the free amino-ester was used directly without further characterization.

reactant | [(phenylmethoxy)carbonyl]-L-leucine, 2-(trimethylsilyl)ethyl ester | 24.9 mmol, 9.1 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CC(C)C)C(=O)OCC[Si](C)(C)C | C19H31NO4Si
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | L-Leucine, 2-(trimethylsilyl)ethyl ester | N[C@@H](CC(C)C)C(=O)OCC[Si](C)(C)C | C11H25NO2Si
